US07728025B2
(Step 1) Production of N-(3-fluoro-4-(3-methyl-3-butenoyl)phenyl)pyridine-2-carboxamide
9.89 ml of (2-methyl-2-propen-1-yl)magnesium chloride (0.50 M tetrahydrofuran solution) was added to a tetrahydrofuran (10 ml) solution of 500 mg of N-(3-fluoro-4-((methoxy(methyl)amino)carbonyl)phenyl)pyridine-2-carboxamide obtained in the same method as in Example 145 (step 3) or in accordance with the method or by combining it with an ordinary method but using pyridine-2-carboxylic acid, with cooling with ice. The reaction liquid was stirred for 3 hours with cooling with ice, and then water was poured into the reaction solution, extracted with ethyl acetate and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=3/1) to obtain the entitled compound.

reactant | (2-methyl-2-propen-1-yl)magnesium chloride | 0.50 M, 9.89 ml | CC(C[Mg]Cl)=C
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | N-(3-fluoro-4-((methoxy(methyl)amino)carbonyl)phenyl)pyridine-2-carboxamide | 500 mg | FC=1C=C(C=CC1C(=O)N(C)OC)NC(=O)C1=NC=CC=C1 | C15H14FN3O3
reactant | pyridine-2-carboxylic acid | N1=C(C=CC=C1)C(=O)O | C6H5NO2
solvent | water | O | H2O
product | N-(3-fluoro-4-(3-methyl-3-butenoyl)phenyl)pyridine-2-carboxamide | FC=1C=C(C=CC1C(CC(=C)C)=O)NC(=O)C1=NC=CC=C1 | C17H15FN2O2
